US08729105B2
Preparation of 4-(4-chloro-3-methylphenyl)-N-((2-cyclopropylthiazol-4-yl)methyl)-5-(2,2,2-trifluoroethoxy)picolinamide
The title compound was synthesized in analogy to Example 1 using 4-(4-chloro-3-methylphenyl)-5-(2,2,2-trifluoroethoxy)picolinic acid (example BN) and 2-cyclopropyl-4-thiazolemethanamine (CAN 1083299-53-9) as starting materials; LC-MS (UV peak area/ESI) 100%, 482.0911 (M+H)+.

reactant | 4-(4-chloro-3-methylphenyl)-5-(2,2,2-trifluoroethoxy)picolinic acid | ClC1=C(C=C(C=C1)C1=CC(=NC=C1OCC(F)(F)F)C(=O)O)C | C15H11ClF3NO3
reactant | 2-cyclopropyl-4-thiazolemethanamine | C1(CC1)C=1SC=C(N1)CN | C7H10N2S
product | 4-(4-chloro-3-methylphenyl)-N-((2-cyclopropylthiazol-4-yl)methyl)-5-(2,2,2-trifluoroethoxy)picolinamide | ClC1=C(C=C(C=C1)C1=CC(=NC=C1OCC(F)(F)F)C(=O)NCC=1N=C(SC1)C1CC1)C | C22H19ClF3N3O2S
